US06211241B1
(a) 4-Oxo-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid-(naphthalene-1-ylmethyl) -amide (Scheme 4, product 1)
A mixture of 1-naphthalenemethylamine (1.37 g, 7.2 mmol), 4-oxo-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.13 g, 7.2 mmol) ECD (2.87 g, 15 mmol), and DMAP (1.83 g, 15 mmol) in CH2Cl2 (20 mL) was stirred at room temperature. After 12 h, the reaction mixture was concentrated and the residue was purified by flash column chromatography (2-5% MeOH in CH3Cl to yield the product (2.29 g, 97% liht yellow solid, m.p. 155-156° C.).

reactant | 1-naphthalenemethylamine | 7.2 mmol, 1.37 g | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | 4-oxo-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 7.2 mmol, 1.13 g | O=C1CCC(C2=CC=CC=C12)C(=O)O | C11H10O3
catalyst | DMAP | 15 mmol, 1.83 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Oxo-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid-(naphthalene-1-ylmethyl) -amide | C1(=CC=CC2=CC=CC=C12)CNC(=O)C1CCC(C2=CC=CC=C12)=O | C22H19NO2
